US07449467B2
N-[(1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentyl]-3-(methoxymethyl)tetrahydro-2H-pyran-4-amine
The title compound was prepared by reductive amination of 3-(methoxymethyl)tetrahydro-4H-pyran-4-one with (1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentanamine using the procedure described for Example 5. MS calculated for C27H40F3N3O3: (M+H) 512; found 512.2.

reactant | 3-(methoxymethyl)tetrahydro-4H-pyran-4-one | COCC1COCCC1=O | C7H12O3
reactant | (1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentanamine | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C20H28F3N3O
product | N-[(1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentyl]-3-(methoxymethyl)tetrahydro-2H-pyran-4-amine | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)COC)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C27H40F3N3O3
